* pseudo-R incremental resistance: I vs V around 0
.lib /Users/noah/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.temp 27
.include eeg_pseudo_res.spice
VA A 0 0.9
VB B 0 0.9
XPR A B eeg_pseudo_res
.control
set noaskquit
dc VA 0.85 0.95 0.001
let r = 0.9/slope(v(a)#branch) 
* simpler: print branch current at a few points
print v(a) i(VA)
quit
.endc
.end
